US07498460B2
Methyl 4-[3-(4-{[4-(cyclopropylmethoxy)benzyl]oxy}phenyl)propoxy]-3-({[3-(methoxycarbonyl)cyclohexyl]amino}carbonyl)benzoate is prepared in analogy to the process described in Example 34 from methyl 4-[3-(4-hydroxyphenyl)propoxy]-3-({[3-(methoxycarbonyl)cyclohexyl]amino}carbonyl)benzoate and 1-(chloromethyl)-4-(cyclopropylmethoxy)benzene.

reactant | methyl 4-[3-(4-hydroxyphenyl)propoxy]-3-({[3-(methoxycarbonyl)cyclohexyl]amino}carbonyl)benzoate | OC1=CC=C(C=C1)CCCOC1=C(C=C(C(=O)OC)C=C1)C(=O)NC1CC(CCC1)C(=O)OC | C26H31NO7
reactant | 1-(chloromethyl)-4-(cyclopropylmethoxy)benzene | ClCC1=CC=C(C=C1)OCC1CC1 | C11H13ClO
product | Methyl 4-[3-(4-{[4-(cyclopropylmethoxy)benzyl]oxy}phenyl)propoxy]-3-({[3-(methoxycarbonyl)cyclohexyl]amino}carbonyl)benzoate | C1(CC1)COC1=CC=C(COC2=CC=C(C=C2)CCCOC2=C(C=C(C(=O)OC)C=C2)C(=O)NC2CC(CCC2)C(=O)OC)C=C1 | C37H43NO8
